US07670591B2
(a) 6-Chloro-N-(2-hydroxy-4-methoxyphenyl)nicotinamide
6-Chloronicotinyl chloride (2.0 g, 11.4 mmol) in THF (10 mL) was added dropwise to a mixture of 2-hydroxy-4-methoxyaniline (1.58 g) and triethylamine (1.8 mL) in THF (20 mL) at r.t. The reaction was stirred at r.t for 30 minutes and was then heated to reflux for 5 minutes. After cooling to r.t. the solid was collected, rinsed with water, dried (under vacuum over P2O5), to give the title compound (1.77 g) as an orange solid. 1H NMR δ ppm 9.78 (br. s, 1H) 9.63 (br. s, 1H) 8.94 (d, 1H) 8.34 (dd, 1H) 7.68 (d, 1H) 7.34 (d, 1H) 6.49 (d, 1H) 6.42 (dd, 1H) 3.71 (s, 3H); MS m/z (M+H) 279, 281; (M−H) 277, 279.

reactant | 6-Chloronicotinyl chloride | 11.4 mmol, 2.0 g | ClC1=NC=C(CCl)C=C1 | C6H5Cl2N
reactant | 2-hydroxy-4-methoxyaniline | 1.58 g | OC1=C(N)C=CC(=C1)OC | C7H9NO2
reactant | triethylamine | 1.8 mL | C(C)N(CC)CC | C6H15N
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-Chloro-N-(2-hydroxy-4-methoxyphenyl)nicotinamide | 1.77 g | ClC1=NC=C(C(=O)NC2=C(C=C(C=C2)OC)O)C=C1 | C13H11ClN2O3
